* AD8599 DMod model
* Description: Amplifier
* Generic Desc: 9/30V, BIP, OP, Low THD, Low Noise, 2X
* Developed by: D.F. Bowers.
* Revision History: 08/10/2012 - Updated to new header style
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
*Usage:-

*X1 7 4 6 3 2 DMOD8599
*   | | | | |
*   | | | | Inverting input
*   | | | Non-inverting input
*   | | Output
*   | Negative supply
*   Positive supply

.SUBCKT DMOD8599 7 4 6 3 2

* Input Impedances

G3 3 2 3 2 82U
R1 3 0 1.6G
R2 2 0 1.6G
C1 3 0 2.25P
C2 2 0 2.25P
C3 3 2 7P

* Input Clamping

D1 3 12 D1
D2 12 2 D1
D3 2 13 D1
D4 13 3 D1

.MODEL D1 D IS=1E-16

* Preconditioning Gain Stage and Sum Node for Gain Control
* and Noise Insertion

E1 20 19 3 2 100
R3 19 0 10M

* Second-Order Frequency Shaping

R50 20 21 10
C50 21 0 110P
R51 21 22 50
C51 22 0 17P
R52 22 23 250
C52 23 0 17P
R53 23 40 1.25K
C53 40 0 11P

* Limiting Amplifier with Slew-Rate Control

G4 41 0 40 0 100U
G5 41 0 41 0 5U
D5 42 41 D2
D6 41 43 D2
V1 0 42 460
V2 43 0 460

.MODEL D2 D IS=1E-16 EG=0.6

* Primary Gain Block, Dominant Pole/Zero and Swing Limiting Network

G6 44 0 41 0 10U
G7 44 0 44 0 33.3N
C4 44 48 310P
R4 48 0 60
D7 44 46 D2
D8 47 44 D2
E2 46 0 POLY(1) 7 0 -1.76 1
E3 47 0 POLY(1) 4 0 1.95 1

* Output Stage and Gain-Reduction Feedback

M1 7 44 45 4 MN AD=0 AS=0 L=1U W=4700U
M2 4 44 45 7 MP AD=0 AS=0 L=1U W=4700U
R6 45 6 1M
G8 19 0 45 6 1000

R5 44 50 180
C5 50 6 400P

.MODEL MN NMOS LEVEL=1 KP=2E-5 PHI=1.0 VTO=-120M GAMMA=0 LAMBDA=0
.MODEL MP PMOS LEVEL=1 KP=2E-5 PHI=1.0 VTO=120M GAMMA=0 LAMBDA=0

* Quiescent Supply Current

R7 7 4 52K
I1 7 4 3.53M

* Noise Modeling

D60 60 0 DN1 1000
I60 0 60 1M
D61 61 0 DN4
I61 0 61 1U
D62 62 0 DN3
I62 0 62 1U
D63 63 0 DN2
I63 0 63 1U
G60 3 0 61 60 .00018
G61 2 0 61 60 .00018
G62 3 2 62 60 .000092
G63 19 0 63 60 700

.MODEL DN1 D IS=1E-16
.MODEL DN2 D IS=1E-16 AF=1 KF=1.05E-17
.MODEL DN3 D IS=1E-16 AF=1 KF=2.8E-17
.MODEL DN4 D IS=1E-16 AF=1 KF=4.5E-17

.ENDS DMOD8599



